US09328067B2
N-[2-(benzylsulfanyl)-4-cyanophenyl]-1-benzofuran-2-sulfonamide
Following General Procedure B, the title compound (752 mg, 47%) was prepared from 4-amino-3-(benzylthio)benzonitrile (430 mg, 1.80 mmol), benzofuran-2-sulfonyl chloride (391 mg, 1.80 mmol), and DMAP (cat.) in pyridine (3 ml).

reactant | 4-amino-3-(benzylthio)benzonitrile | 1.80 mmol, 430 mg | NC1=C(C=C(C#N)C=C1)SCC1=CC=CC=C1 | C14H12N2S
reactant | benzofuran-2-sulfonyl chloride | 1.80 mmol, 391 mg | O1C(=CC2=C1C=CC=C2)S(=O)(=O)Cl | C8H5ClO3S
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
product | N-[2-(benzylsulfanyl)-4-cyanophenyl]-1-benzofuran-2-sulfonamide | 752 mg, 47% | C(C1=CC=CC=C1)SC1=C(C=CC(=C1)C#N)NS(=O)(=O)C=1OC2=C(C1)C=CC=C2 | C22H16N2O3S2
